US05679671
7-Trifluoromethanesulfonyloxy-3,4-dihydro-1(2H)-naphthalenone
Into 100 ml of a solution of 9.94 g (61.29 mmol) of 7-hydroxy-3,4-dihydro-1(2H)-naphthalenone and 24.8 ml (306 mmol) of pyridine in dichloromethane being stirred at 0° C. was dropped 11.86 ml of trifluoromethanesulfonic anhydride in portions while maintaining the temperature so as not to exceed 5° C. After stirring at the same temperature for 10 minutes and then at room temperature for 30 minutes, water was added to the reaction mixture. The dichloromethane layer was collected, washed with 1 N hydrochloric acid, water and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was subjected to silica gel column chromatography. After successively eluting with hexane:ethyl acetate in a ratio ranging from 10:1 (v/v) to 8:1 (v/v), 15.33 g of the title compound was obtained as a pale yellow, oily product. Yield 85%.

reactant | 7-hydroxy-3,4-dihydro-1(2H)-naphthalenone | 61.29 mmol, 9.94 g | OC1=CC=C2CCCC(C2=C1)=O | C10H10O2
reactant | pyridine | 306 mmol, 24.8 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 11.86 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-Trifluoromethanesulfonyloxy-3,4-dihydro-1(2H)-naphthalenone | 15.33 g, Yield 85% | FC(S(=O)(=O)OC1=CC=C2CCCC(C2=C1)=O)(F)F | C11H9F3O4S
